US04889854
0.34 g of methyl 7-oxo-8-phenyl-7H-pyrido[1,2-b]thieno[2,3-d]pyridazine-10-carboxylate in 10 ml of formic acid are treated dropwise under argon at 25°-30° with 0.31 g of sodium cyanoborohydride in 2 ml of tetrahydro-furan. The mixture is left to stir at room temperature for 24 hours. The solution is poured into 50 ml of ice-water. The yellowish crystals are removed by filtration and washed with water. After drying in vacuo, recrystallization is carried out from ethyl acetate. There is obtained methyl 4,5-dihydro-5-methyl-7-oxo-8-phenyl-7H-pyrido[1,2-b]thieno-[2,3-d]pyridazine-10-carboxylate of m.p. 180°-181°.

reactant | methyl 7-oxo-8-phenyl-7H-pyrido[1,2-b]thieno[2,3-d]pyridazine-10-carboxylate | 0.34 g | O=C1C(=CC(=C2N1N=CC1=C2SC=C1)C(=O)OC)C1=CC=CC=C1 | C18H12N2O3S
reactant | sodium cyanoborohydride | 0.31 g | C(#N)[BH3-].[Na+]
solvent | formic acid | 10 ml | C(=O)O | CH2O2
solvent | tetrahydro-furan | 2 ml | O1CCCC1 | C4H8O
product | methyl 4,5-dihydro-5-methyl-7-oxo-8-phenyl-7H-pyrido[1,2-b]thieno-[2,3-d]pyridazine-10-carboxylate | CN1N2C(C3=C(C1)C=CS3)=C(C=C(C2=O)C2=CC=CC=C2)C(=O)OC | C19H16N2O3S
